US05919806
Synthesis of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole
0.82 g (3.8 mmol) of 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole were dissolved in 25 ml of 16.7% NH3 -EtOH and reacted for at 60° C. for 48 hours in a pressure glass tube. The solvent was distilled off, and the residue was subjected to silica gel column chromatography (eluent: ethyl acetate-methanol=5:1) to obtain 0.77 g of the intended compound as a brown solid. (yield: 87%) A part of the product was recrystallized from ethanol to obtain pure colorless crystals of the intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 3.8 mmol, 0.82 g | CC1(C2C(C=3C(=CC=4C(=NON4)C3)O1)O2)C | C11H10N2O3
reactant | NH3 EtOH | 25 ml | N.CCO
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 0.77 g, yield: 87% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
